US04699993
A suitable reaction vessel was charged with 8.1 g of 6-methoxy-5-bromo-1-cyanonaphthalene, 11.8 g of CuI, 35 ml of toluene, and 55 ml of N,N-dimethylformamide. The reaction mixture was heated to 165° C. with concurrent azeotropic removal at toluene/water (25 ml) and then maintained at 155° C. when 11.8 g of potassium pentafluoropropionate was added. The reaction was monitored by VPC. After five hours no starting material was detected and the reaction mixture was poured into 150 ml of water and 125 ml of methylene chloride. The two phases were filtered, after which the organic layer was separated, washed with brine, and concentrated in vacuo to provide a crude 6-methoxy-5-pentafluoroethyl-1-cyanonaphthalene (6-MPCN) having a purity of greater than 95%.

reactant | 6-methoxy-5-bromo-1-cyanonaphthalene | 8.1 g | COC=1C(=C2C=CC=C(C2=CC1)C#N)Br | C12H8BrNO
reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
reactant | potassium pentafluoropropionate | 11.8 g | FC(C(C(=O)[O-])(F)F)(F)F.[K+]
catalyst | CuI | 11.8 g | [Cu]I
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | water | 150 ml | O | H2O
solvent | toluene water | 25 ml | C1(=CC=CC=C1)C.O
product | 6-methoxy-5-pentafluoroethyl-1-cyanonaphthalene | COC=1C(=C2C=CC=C(C2=CC1)C#N)C(C(F)(F)F)(F)F | C14H8F5NO
